US05882628
b. N,N'-Bis(2,3-dihydroxypropionyl)-3,5-diamino-2,4,6-triiodobenzylalcohol
N,N'-Bis(2,2-dimethyl-1,3-dioxolane-4-carbonyl)-3,5-diamino-2,4,6-triiodobenzylacetate (1.25 g, 1.55 mol) was dissolved in a mixture of water (50 ml), methanol (25 ml) and concentrated HCl (0.5 ml). After stirring for 4 h, the solution was neutralized with aqueous NaH2PO4 and the solvents were removed by evaporation. The residue was dissolved in water (10 ml) and the pH was adjusted to 12 with aqueous NaOH. After 30 min, the solution was again neutralized and the solvent was evaporated. The product was purified by preparative HPLC. Yield: 483 mg (45%).

reactant | N,N'-Bis(2,2-dimethyl-1,3-dioxolane-4-carbonyl)-3,5-diamino-2,4,6-triiodobenzylacetate | 1.55 mol, 1.25 g | CC1(OCC(O1)C(=O)NC=1C(=C(CCC(=O)[O-])C(=C(C1I)NC(=O)C1OC(OC1)(C)C)I)I)C
reactant | water | 50 ml | O | H2O
solvent | methanol | 25 ml | CO | CH4O
solvent | HCl | 0.5 ml | Cl | ClH
product | N,N'-Bis(2,3-dihydroxypropionyl)-3,5-diamino-2,4,6-triiodobenzylalcohol | OC(C(=O)NC=1C(=C(CO)C(=C(C1I)NC(C(CO)O)=O)I)I)CO | C13H15I3N2O7
